Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yF h/o obesity and hypertension who presents to the ED for a 
1 day history of severe, immobilizing back pain. Pt started 
noticing left leg pain around ___, her L leg would get 
uncomfortable after sitting for 45min or longer, moving around 
alleviated the pain. She went to see her PCP regarding the pain 
on ___ and was started on Ibuprofen 400mg TID. Pt mistakenly 
took 2 tabs each time, in addition took ___ Back and body 
pain 800mg TID for 3 days. On ___, her leg pain transitioned to 
a back pain when she tried to get up from sitting, throughout 
the day she had a few repeat episodes of the pain. This pain was 
relieved by lying in bed and staying still. She stayed in bed 
for about 3 days, went back to work for only a single day. She 
represented to her PCP office  on ___ and was advised to take 
ibuprofen 800mg TID and start physical therapy. On ___ she 
started physical therapy and also started taking 500mg 
acetaminophen every 3 hrs. These interventions improved her pain 
and she was able to remain functional with a baseline pain of 
___.
On ___ she had an acute worsening of pain at 11pm, after trying 
to get up to from bed. Her back pain instantly escalated to a 
___, and she wasn't able to get back into bed. She tried cold 
compress, acetaminophen, ibuprofen, and methocarbamol x2 to no 
avail. She could not move at all. The pain did not improve the 
following day, but she was able to "shimmy" down 3 flights of 
stairs on her hand and knees to get down to the ___ floor of her 
house so that she can be brought to ED via EMS. 
 
Past Medical History:
Obesity (___ 37)
Hypertension
Tobacco dependence
Back Pain
History of appendectomy
Rosacea
Lung nodule
Glaucoma
s/p hemorrhoidectomy, hysterectomy
Allergic rhinitis
Closed displaced fracture of the neck of the ___ metacarpal one 
of the L hand
 
Social History:
___
Family History:
Family history of colon cancer, hypertension. Grandfather died 
of ___, Grandmother died of liver cirrhosis from 
alcoholism, uncle died of pneumonia from AIDS.
 
Physical Exam:
On Admission:
VITAL SIGNS -  98.5 | 152/92 | 80 | 22 | 100% on RA
GENERAL - lying supine with knees bent, no acute distress
HEENT - PERRL, EOMI, anicteric 
NECK - no LAD
CARDIAC - regular rate and rhythm, normal S1 and S2 no murmurs
LUNGS - CTAB on anterior and lateral exam
ABDOMEN - soft, non-distended, nontender to palpation, no 
hepatomegaly or splenomegaly. Normal bowel sounds.
BACK- tender to palpation at only one spot on the L lower 
lumbar/gluteal junction.
EXTREMITIES - ___ strength on UE. ___ strength on plantar and 
dorsiflexion of b/l ankle. Active straight leg raise limited by 
lower back pain to <5deg. Passive straight leg raise limited by 
lower back pain to <35deg. Active leg raise with flexed knees 
limited by lower back pain to < 25deg. Passive leg raise with 
flexed knees limited by lower back pain to <70deg. No pain on 
hip adduction or abduction. Sensation is equal bilaterally. 2+ 
DP and ___ pulses. Normal patellar reflex.
NEUROLOGIC - A&Ox3. CNII-XII intact.
SKIN - no rashes 

On Discharge:
Vitals:  Tmax 98.7 | ___ | ___ | ___ RA
GENERAL - Lying supine, in no acute distress
HEENT - PERRL, EOMI, anicteric 
NECK - no LAD
CARDIAC - regular rate and rhythm, normal S1 and S2 no murmurs
LUNGS - CTAB on anterior and lateral exam
ABDOMEN - soft, non-distended, nontender to palpation, no 
hepatomegaly or splenomegaly. Normal bowel sounds.
BACK- tender to palpation at only one spot on the L lower 
lumbar/gluteal junction.
EXTREMITIES - ___ strength on UE. ___ strength on plantar and 
dorsiflexion of b/l ankle. Active straight leg raise limited by 
lower back pain to <30deg. Passive straight leg raise up to 
45deg.   2+ DP and ___ pulses.
NEUROLOGIC - A&Ox3. CNII-XII intact.
SKIN - no rashes 
PSYCHIATRIC - coping well.
 
Pertinent Results:
On Admission
___ 06:00PM BLOOD WBC-6.6 RBC-4.51# Hgb-14.9# Hct-44.9# 
MCV-100*# MCH-33.0* MCHC-33.2 RDW-12.7 RDWSD-46.5* Plt ___
___ 06:00PM BLOOD Neuts-61.8 ___ Monos-7.6 Eos-0.8* 
Baso-0.3 Im ___ AbsNeut-4.08 AbsLymp-1.93 AbsMono-0.50 
AbsEos-0.05 AbsBaso-0.02
___ 06:00PM BLOOD ___ PTT-33.9 ___
___ 06:00PM BLOOD Glucose-78 UreaN-17 Creat-0.6 Na-138 
K-3.8 Cl-99 HCO3-24 AnGap-19
___ 07:07AM BLOOD Calcium-9.5 Phos-4.2 Mg-1.7
___ 06:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

On Discharge
___ 06:50AM BLOOD WBC-4.0 RBC-4.51 Hgb-14.7 Hct-43.7 MCV-97 
MCH-32.6* MCHC-33.6 RDW-12.5 RDWSD-44.6 Plt ___
___ 06:50AM BLOOD Glucose-80 UreaN-22* Creat-0.6 Na-136 
K-3.9 Cl-99 HCO___ AnGap-18
___ 06:50AM BLOOD Calcium-9.6 Phos-4.4 Mg-1.9

Imaging
MRI Thorax and Lumbar (___): 
IMPRESSION
1.  Study is mildly degraded by motion. 
2. L4-L5 disc extrusion causing mild-to-moderate left ventral 
thecal sac 
deformity and compression of the left L5 traversing nerve roots 
(13:32). 
3. Additional multilevel spondylosis with mild neural foraminal 
narrowing, as detailed above. 
4. Right upper lobe peripheral consolidation increased when 
compared with the prior chest CT dated ___.  Finding is 
nonspecific. Possibility of underlying malignancy is not 
excluded.  A dedicated CT chest is recommended to further 
assess. 

Microbiology
Urine Culture (___):   MIXED BACTERIAL FLORA ( >= 3 COLONY 
TYPES), CONSISTENT WITH SKIN AND/OR GENITAL CONTAMINATION.

 
Brief Hospital Course:
___ year old female with obesity, HTN, and 3 weeks of back pain 
that is being worked up as an outpatient, now presents with 1 
day history of acute back pain after trying to get out of bed.  

ACTIVE ISSUES
#Back Pain: No neurological deficits. Mechanism unlikely for 
disc herniation. No risk factors for spinal stenosis. Only 
trialed muscle relaxant for 1 day. Initial symptoms and history 
most consistent with muscle strain. However, failure to improve 
following two days of rest prompted further evaluation with 
imaging. MRI shows  mild-to-moderate left ventral thecal sac 
deformity and compression of the left L5 traversing nerve roots. 
Pt was able to walk with ___ for the ___ time on ___, ___ 
recommended home ___. Pt's symptoms significantly improved with 
heat packs, standing Tylenol, flexeril, oxycodone for 
breakthrough, and physical therapy. 

CHRONIC ISSUES
#HTN: Holding home lisinopril/HCTZ iso low blood pressures in 
the ED, likely due to oxycodone use. 

=======================================================
New Medications:
-Cyclobenzaprine 10mg TID x5d
-Acetaminophen 650mg Q6H PRN pain

Transitional Issues:
-Continue to work with physical therapy
-f/u with PCP
-___ blood pressure at next PCP visit, and consider restarting 
lisinopril-HCTZ if BPs are elevated.
-Incidentally found non-specific RUL opacity seen on MRI T and 
L-spine which should be followed up with a CT chest.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
2. Ibuprofen 800 mg PO TID 
3. Acetaminophen 500 mg PO TID 
4. Aspirin 325 mg PO TID:PRN Pain 

 
Discharge Medications:
1.  Cyclobenzaprine 10 mg PO BID Back pain 
RX *cyclobenzaprine 10 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN BREAKTHROUGH 
PAIN 
RX *oxycodone 5 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*21 Tablet Refills:*0 
3.  Acetaminophen 650 mg PO Q6H  
4.  Ibuprofen 800 mg PO TID  
5.Rolling Walker
Diagnosis: Acute low back pain
Prognosis: Good
Length of need: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
-Muscle strain

Secondary:
-Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
--Why was I admitted?
You were admitted because you were having severe back pain. We 
think you had a muscle strain.

--What was done?
We gave you medications to help manage the pain and had you work 
with physical therapy

--What should I do next?
You are being discharged home with physical therapy. You should 
continue to work with them as much as you can. You should also 
follow up with your primary care doctor, and we have already set 
up an appointment for you to follow up with them. 

We also found an abnormality on your MRI in your lungs. This was 
seen on a previous CT scan, but it may have changed. You should 
talk with your primary care doctor about getting a CT scan of 
your chest to look at this in more detail.

You should continue take ibuprofen, acetaminophen (Tylenol) and 
cyclobenzaprine. You are being discharged with a 14-day supply 
of cyclobenzaprine. In addition, you are being discharged with a 
7-day supply of oxycodone to use if your pain becomes 
unbearable. If your pain is not improved after 4 days, you 
should call your PCP's office.

You should also get a CT scan of your chest for to further 
evaluate a lung consolidation that was noted on your MRI.

It was a pleasure to help care for you during this 
hospitalization.

Sincerely,
Your ___ Team
 
Followup Instructions:
___